US09062015B2
FS1029 3-[6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]propan-1-ol
The preparation is carried out analogously to FS301 starting from 73 mg (0.20 mmol) of 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamine and 33 μl of 3-chloro-1-propanol. The product is the hydrochloride.

reactant | 6′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamine | 0.20 mmol, 73 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CC(CCC1)N)C | C24H33N3
reactant | 3-chloro-1-propanol | 33 μl | ClCCCO | C3H7ClO
reactant | hydrochloride | Cl | ClH
product | 3-[6′-(5,5,8,8-Tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-3,4,5,6-tetrahydro-2H-1,2′-bipyridinyl-3-ylamino]propan-1-ol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CC(CCC1)NCCCO)C | C27H39N3O
